US06835731B2
Preparation of Pyridine-2-sulfonic Acid 4-chloromethyl-benzylamide:
Reaction of pyridine-2-sulfonic acid 4-hydroxymethyl-benzylamide (140 mg, 0.50 mmol), Et3N (88 μL, 0.60 mmol), and MsCl (47 μL, 0.60 mmol) for 2 h at reflux followed by column chromatography on silica gel (CH2Cl2/MeOH 99:1) gave the title compound (67 mg, 45%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 4.28 (d, 2H, J=6.0 Hz), 4.54 (s, 2H), 5.17 (br s, 1H), 7.23-7.49 (m, 4H), 7.47-7.52 (m, 1H), 7.88 (ddd, 1H, J=7.5, 7.5, 1.7 Hz), 7.97 (d, 2H, J=7.5 Hz), 8.69 (d, 1H, J=4.8 Hz). ES-MS m/z 319 (M+Na).

reactant | pyridine-2-sulfonic acid 4-hydroxymethyl-benzylamide | 0.50 mmol, 140 mg | OCC1=CC=C(CNS(=O)(=O)C2=NC=CC=C2)C=C1 | C13H14N2O3S
reactant | Et3N | 0.60 mmol, 88 μL | CCN(CC)CC | C6H15N
reactant | MsCl | 0.60 mmol, 47 μL | CS(=O)(=O)Cl | CH3ClO2S
product | Pyridine-2-sulfonic Acid 4-chloromethyl-benzylamide | 67 mg, 45% | ClCC1=CC=C(CNS(=O)(=O)C2=NC=CC=C2)C=C1 | C13H13ClN2O2S
